Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, diarrhea. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o M w/ DM2 (A1C 6.0%), HTN, HLD, chronic 
LBP who presents with N/V and diarrhea. Mr. ___ reports 
having an 8 week history of diffuse, intermittent bloating/lower 
abdominal pain. ___ now presents with 1 day w/ ___ episodes of 
non-bloody, non-bilious vomiting yesterday and ___ episodes of 
watery diarrhea. Due to decreased appetite and N/V, patient has 
had low PO intake over the last 24 hours and now feels thirsty. 
His abdominal pain remains to be at baseline and is not acutely 
worsening. In addition, ___ has felt feverish and chills at home. 
Otherwise denies any night sweats, dysphagia, early fullness, 
BRBPR, weight loss, chest pain, DOE, shortness of breath, 
lightheadedness or RUQ postprandial pain. No new travel or 
obvious close sick contacts, but reports that ___ works at a 
hotel and a number of people that ___ is exposed to peripherally 
are sick. 

Patient recently visited his PCP's office for an evaluation of 
the abdominal pain. Dr. ___ at the time recommended to start 
low-FODMAP diet and adding additional bran to his meals. ___ was 
also referred to gastroenterology for an evaluation but has not 
had an opportunity to follow-up yet. Otherwise, ___ is up-to-date 
on all of his screenings including having a recent colonoscopy 
in ___. 

In the ED, initial VS were 101.1 ___ 16 99% RA  
Labs notable for: WBC 10.8 w/ N 92.7, normal LFTs, normal BMPs, 
lactate 1.4, trop < 0.01. EKG demonstrates Sinus tach at 118, 
NA/LAD; STDs with TWIs in II, III, aVF, V4-V6, new from ___.  

A CXR showed no acute cardiopulmonary process. A CT abd/pelvis 
showed nondistended fluid-filled loops of small bowel are a 
nonspecific finding, but may represent enteritis in the 
appropriate clinical setting. Patient was given IV Zofran x1, 2L 
IVF and IV Cipro 400mg x1.

On the floor, patient was well-appearing and was able to 
re-endorse history. ___ continued to feel nauseous but did not 
have any additional episodes of vomiting or diarrhea. His 
abdominal pain persist and remains unchanged. After receiving 
IVF, ___ is starting to feel better. 

REVIEW OF SYSTEMS: + per HPI, otherwise negative. 

 

 
Past Medical History:
 DIABETES MELLITUS  
 HYPERTENSION  
 ALLERGIC CONJUNCTIVITIS  
 ONYCHOMYCOSIS  
 CHRONIC LOW BACK PAIN  
 HYPERCHOLESTEROLEMIA  
 HYPEROPIA  
 COUGH  
 H/O THROMBOSED HEMORRHOID  
 H/O LEG CRAMPS  

 
Social History:
___
Family History:
Mother- hypertension 
Father--unknown
Aunt- breast cancer  

 
Physical Exam:
Physical Exam on Admission:
 VS - 98.6 143/82 112 18 97RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM, good dentition.  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: RRR, no m/r/g
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: hyperactive BS, nontender in all quadrants. Neg 
murphys. No HSM.   
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

==========================================================
Physical Exam on Discharge:
 VS - 98.6 110s-130s/60s-70s HR ___ 18 98% RA  
 GENERAL: Well-appearing, in NAD  
 HEENT: AT/NC, EOMI, MMM, good dentition.  
 NECK: supple neck, no LAD
 CARDIAC: RRR, no m/r/g, flat JVP
 LUNG: CTAB, breathing comfortably without use of accessory 
muscles  
 ABDOMEN: hyperactive BS, nontender in all quadrants. Neg 
murphys. No HSM, ND.   
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: AAOX3, CN II-XII grossly intact, moving all extremities, 
narrow-based gait.   
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
Labs on Admission:
___ 07:40PM BLOOD WBC-10.8* RBC-5.33 Hgb-15.6 Hct-45.1 
MCV-85 MCH-29.3 MCHC-34.6 RDW-12.4 RDWSD-37.7 Plt ___
___ 07:40PM BLOOD Neuts-92.7* Lymphs-3.2* Monos-3.5* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.99* AbsLymp-0.34* 
AbsMono-0.38 AbsEos-0.01* AbsBaso-0.02
___ 07:40PM BLOOD Plt ___
___ 07:40PM BLOOD Glucose-134* UreaN-15 Creat-1.0 Na-134 
K-4.1 Cl-97 HCO3-26 AnGap-15
___ 07:40PM BLOOD ALT-15 AST-20 AlkPhos-61 TotBili-0.4
___ 07:40PM BLOOD Albumin-4.8
___ 07:51PM BLOOD Lactate-1.4
=========================================================
Labs on Discharge:
___ 06:16AM BLOOD WBC-8.3 RBC-4.79 Hgb-13.6* Hct-40.7 
MCV-85 MCH-28.4 MCHC-33.4 RDW-12.5 RDWSD-38.4 Plt ___
___ 06:16AM BLOOD Plt ___
___ 06:16AM BLOOD Glucose-120* UreaN-13 Creat-1.0 Na-139 
K-3.3 Cl-103 HCO3-25 AnGap-14
___ 06:16AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.7
___ 06:16AM BLOOD cTropnT-<0.01

==================================================
Micro: 
___ 12:30PM STOOL NoroGI-NEGATIVE NoroGII-POSITIVE *
FECAL CULTURE-FINAL; CAMPYLOBACTER CULTURE-FINAL; FECAL CULTURE 
- R/O VIBRIO-FINAL; FECAL CULTURE - R/O YERSINIA-FINAL; FECAL 
CULTURE - R/O E.COLI 0157:H7-FINAL; VIRAL CULTURE-FINAL 
========================================================
Clinical Studies/Imaging:

CT Abdomen/Pelvis: ___
  
IMPRESSION: 
1. Non-distended fluid-filled loops of small bowel are a 
nonspecific finding, but may represent enteritis in the 
appropriate clinical setting.  No bowel obstruction. 

Chest Xray: ___
IMPRESSION:   
No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ y/o M w/ DM2 diet controlled (A1C 6.0%), HTN, HLD and 8 week 
history of diffuse lower abdominal pain admitted with 1 day of 
N/V, watery diarrhea ___ acute gastroenteritis in the setting of 
testing positive for Norovirus, genotype II.

#Acute gastroenteritis: Patient reported an 8 week history of 
diffuse lower abdominal pain, and recently had 1 day of N/V x2, 
watery diarrhea x ___, in the setting of working in a hotel with 
possible exposure to sick contacts. ___ was clinically diagnosed 
with acute gastroenteritis. A CT abdomen demonstrated 
non-distended fluid-filled loops of small bowel, which may 
represent enteritis in the appropriate clinical setting. Due to 
decreased PO intake and dehydration, patient was tachycardic to 
the 100s and was repleted with 3L IVF during this admission. 
With IVF repletion, patient's heart rate downtrended and 
remained stable for the remainder of this admission. The 
diagnostic stool studies were notable for positive Norovirus, 
genotype II. The remainder of the stool studies were negative 
for campylobacter, vibrio, Yersinia, Ecoli ___. Patient was 
discharged after ___ remained afebrile, was able to tolerate good 
PO intake, and demonstrated good ambulation. ___ was written a 
letter notifying his place of employment that ___ will be 
available to work after 48-72 hours, per CDC guidelines. Patient 
and family were counseled extensively about the importance of 
hand hygiene to prevent further transmission. 

#Chronic Abdominal Pain: Patient has experienced ongoing 
abdominal pain for 8 weeks. ___ was recently evaluated by PCP in 
the outpatient setting who recommended a low-FODMAP diet and 
adding additional bran into his meals. The etiology of this 
abdominal pain is unclear. Patient was guiaic negative and CT 
abdomen did not demonstrate any concerning findings. Patient is 
up-to-date on all screening including a colonoscopy in ___. ___ 
will follow-up with Dr. ___ in gastroenterology in the 
outpatient setting to evaluate for this abdominal pain. 

#New EKG Changes since ___: Patient developed non-specific TWI 
in II/III/AVF on EKG at the PCP ___. This was also captured 
on EKG in the emergency room. Patient was asymptomatic, denied 
chest pain with negative troponins x2. This was highly unlikely 
to be ischemic in etiology. These ECG changes were likely 
rate-related due to sinus tachycardia and were less pronounced 
on subsequent ECGs. Please consider further diagnostic testing 
if clinically warranted. 
 
# HTN: patient's blood pressure remained at goal during this 
admission. We continued his home lisinopril 40mg daily and HCTZ 
25mg daily.  

# HLD: we continued patient's Rosuvastatin 40mg daily.  

# DM2: diet controlled, A1C 6.0%. We treated him with ISS and 
discontinued it at the time of discharge. Please follow-up 
regarding his glycemic control in the outpatient setting. 

=
=
=
=
================================================================
Transitional Issues:

1. Follow-up on resolution of acute gastroenteritis symptoms.  
2. Follow-up on chronic abdominal pain. Patient will see Dr. 
___ on ___.
3. Follow-up regarding non-specific EKG changes. EKG 
demonstrated sinus tach with non-specific T wave inversions in 
II/III/AVF that are new from ___. Patient was asymptomatic and 
trops were <0.01. These ECG changes were likely rate-related d/t 
sinus tachycardia and were less pronounced on subsequent ECGs. 
Please consider further diagnostic testing if clinically 
warranted. 

# CODE: Full, Confirmed 
# CONTACT: wife ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Rosuvastatin Calcium 40 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Fluticasone Propionate NASAL 50mcg ___  SPRY NU BID PRN 
allergies 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Rosuvastatin Calcium 40 mg PO QPM 
4. Fluticasone Propionate NASAL 50mcg ___  SPRY NU BID PRN 
allergies 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
1. Acute gastroenteritis, Norovirus, Genotype II. 
2. Chronic abdominal pain, unclear etiology

Secondary Diagnoses:
1. DMII
2. Hypertension
3. Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at ___ 
___. You were admitted to the hospital after you 
presented with nausea, vomiting and diarrhea. This was likely 
due to acute gastroenteritis. A chest xray was negative for any 
infection, and a CT abdomen showed that you had mild 
inflammation of your small intestines, which is consistent with 
acute gastroenteritis. You tested positive for Norovirus, which 
is likely the cause of your illness. This will resolve on it's 
own with time, and you do not need any antibiotics. The 
remainder of your stool studies remain pending. We treated you 
with intravenous fluids because you were dehydrated from the 
vomiting/diarrhea. It is important for you to continue to 
hydrate yourself should you continue to have diarrhea.  
Additionally, please continue to practice good hand hygiene and 
avoid sharing food or drinks with others for 48-72 hours after 
complete resolution of your symptoms.  You may take 4mg of 
Zofran (we will give a prescription for this) every 8 hours as 
needed for nausea.

For your chronic abdominal pain, the CT scan did not show any 
concerning findings. Please follow-up with your primary care 
physician and gastroenterology doctors at the ___ 
below. 

Finally, please continue to take all your medications as 
instructed, and to follow-up with your doctors at the 
___ listed below.

We wish you the best.

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___